US06326333B1
Methyl 3-(2-bromoethylthio)-2-methylbenzoate
30.3 g (0.22 mol) of potassium carbonate were added to 40.0 g (0.22 mol) of methyl 3-thio-2-methylbenzoate in 500 ml of acetone, and 82.6 g (0.22 mol) of 1,2-dibromoethane were added dropwise. After 10 hours of stirring at room temperature, the solvent was distilled off, the residue was taken up in water/ethyl acetate and the organic phase was dried and concentrated. The oil that remained was chromatographed over silica gel using ethyl acetate/cyclohexane=1/10.

reactant | potassium carbonate | 0.22 mol, 30.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-thio-2-methylbenzoate | 0.22 mol, 40.0 g | CC1=C(C=CCC1=S)C(=O)OC | C9H10O2S
reactant | 1,2-dibromoethane | 0.22 mol, 82.6 g | BrCCBr | C2H4Br2
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | Methyl 3-(2-bromoethylthio)-2-methylbenzoate | BrCCSC=1C(=C(C(=O)OC)C=CC1)C | C11H13BrO2S
